* gnetlist -g spice-sdb -o ./netlist.net ./scheme.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from ./models/2N3904.mod vvvvvvvv
.model 2N3904   NPN(Is=6.734f Xti=3 Eg=1.11 Vaf=74.03 Bf=416.4 Ne=1.259
+               Ise=6.734f Ikf=66.78m Xtb=1.5 Br=.7371 Nc=2 Isc=0 Ikr=0 Rc=1
+               Cjc=3.638p Mjc=.3085 Vjc=.75 Fc=.5 Cje=4.493p Mje=.2593 Vje=.75
+               Tr=239.5n Tf=301.2p Itf=.4 Vtf=4 Xtf=2 Rb=10)
*               Fairchild        pid=23          case=TO92
*               88-09-08 bam    creation
*^^^^^^^^  End of included SPICE model from ./models/2N3904.mod ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
.options TEMP=25
.INCLUDE ./simulation.cmd
VCC101 Vcc 0 DC 15V
VINPUT101 Vin 0 dc 1.6V AC 10MV SIN(0 1MV 1KHZ)
R106 0 Vout 100k  
C103 1 Vout 2.2uF  
C102 0 2 1pF  
C101 3 Vbase 2.2uF  
R105 Vin 3 10  
R104 0 2 100  
R103 0 Vbase 2k  
R102 Vbase Vcc 28k  
R101 1 Vcc 3.3k  
Q101 1 Vbase 2 2N3904 
.end
